US04931560
Preparation of 2-phenylamino-4-fluoromethyl-6-cyclopropylpyrimidine
6.1 g (37.8 mmol) of diethylaminosulfur trifluoride in 15 ml of dichloromethane are slowly added dropwise within a period of one hour, with stirring, to a suspension of 9.1 g (37.8 mmol) of 2-phenylamino-4-hydroxymethyl-6-cyclopropylpyrimidine in 80 ml of dichloromethane. After the addition of 50 ml of ice-water, 50 ml of 10% aqueous sodium hydrogen carbonate solution are added dropwise. When the evolution of carbon dioxide has ceased, the organic phase is separated off and the aqueous phase is extracted twice with 20 ml of dichloromethane each time. The combined dichloromethane solutions are washed with 15 ml of water, dried over sodium sulfate and filtered, and the solvent is evaporated. The black oil which remains is purified by column chromatography over silica gel (toluene/chloroform/diethyl ether/petroleum ether (b.p. 50°-70° C.); 5/3/1/1). After the eluant mixture has been evaporated off, the yellow oil is diluted with 20 ml of petroleum ether (b.p. 50°-70° C.) and crystallised at reduced temperature. The yellowish crystals melt at 50°-52° C. Yield: 4.9 g (20.1 mmol; 53% of the theoretical yield).

reactant | diethylaminosulfur trifluoride | 37.8 mmol, 6.1 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 2-phenylamino-4-hydroxymethyl-6-cyclopropylpyrimidine | 37.8 mmol, 9.1 g | C1(=CC=CC=C1)NC1=NC(=CC(=N1)CO)C1CC1 | C14H15N3O
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 2-phenylamino-4-fluoromethyl-6-cyclopropylpyrimidine | C1(=CC=CC=C1)NC1=NC(=CC(=N1)CF)C1CC1 | C14H14FN3
